US09340556B2
Diphenyl ether (150 ml, 943 mmol) was heated to boiling and ethyl 4-((2-(ethoxycarbonyl)-3-oxobut-1-en-1-yl)amino)benzoate (6.84 g, 22.40 mmol) was added slowly. After the addition, the reaction was allowed to stir at 200-250° C. for another 30 min. After cooling, the reaction was diluted with hexane, filtered, and the precipitate was washed with hexane/diethyl ether, collected and dried to give ethyl 3-acetyl-4-oxo-1,4-dihydroquinoline-6-carboxylate (5.74 g, 22.14 mmol, 99% yield) as tan solid. LCMS: (M+H)+: 260.0.

reactant | Diphenyl ether | 943 mmol, 150 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
reactant | ethyl 4-((2-(ethoxycarbonyl)-3-oxobut-1-en-1-yl)amino)benzoate | 22.40 mmol, 6.84 g | C(C)OC(=O)C(=CNC1=CC=C(C(=O)OCC)C=C1)C(C)=O | C16H19NO5
solvent | hexane | CCCCCC | C6H14
product | ethyl 3-acetyl-4-oxo-1,4-dihydroquinoline-6-carboxylate | 22.14 mmol, 5.74 g, 99% yield | C(C)(=O)C1=CNC2=CC=C(C=C2C1=O)C(=O)OCC | C14H13NO4
